US04402961
The operation is as in Example 13, but starting from 6 g of 1-(2-quinolyl)-3-(3-piperidyl)-1-propanone, 6 ml of 85% hydrazine hydrate and 5 g of potassium hydroxide pellets. 4.9 g of crude product are obtained. This product is absorbed on a column of 150 g of silica and eluted with a 9/1 chloroform-diethylamine mixture. 1.5 g of 2-[3-(3-piperidyl)-propyl]-quinoline are thus obtained, which melts at 194° C.

reactant | 1-(2-quinolyl)-3-(3-piperidyl)-1-propanone | 6 g | N1=C(C=CC2=CC=CC=C12)C(CCC1CNCCC1)=O | C17H20N2O
reactant | hydrazine hydrate | 6 ml | O.NN
reactant | potassium hydroxide | 5 g | [OH-].[K+]
product | 2-[3-(3-piperidyl)-propyl]-quinoline | 1.5 g | N1CC(CCC1)CCCC1=NC2=CC=CC=C2C=C1 | C17H22N2
